US07696215B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 4, 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoic acid was reacted with 3-aminoisoxazole to give N-isoxazol-3-yl-4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzamide; NMR Spectrum: (DMSOd6) 2.21 (s, 3H), 2.41 (t, 4H), 3.60 (t, 4H), 3.65 (s, 2H), 7.06 (d, 1H), 7.62 (d, 1H), 7.77 (d, 1H), 7.87 (m, 1H), 8.10 (m, 2H), 8.15 (d, 1H), 8.32 (s, 1H), 8.86 (s, 1H), 11.47 (s, 1H); Mass Spectrum: M+H+ 446.

reactant | 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)CN1CCOCC1 | C21H21N3O4
reactant | 3-aminoisoxazole | NC1=NOC=C1 | C3H4N2O
product | N-isoxazol-3-yl-4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzamide | O1N=C(C=C1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)CN1CCOCC1)=O | C24H23N5O4
